US05643950
A solution of 3,3,3-triphenylpropanol (11.54 g, 40 mmol), N,N'-Bis(t-butoxycarbonyl)-N"-2-(4-hydroxyphenyl)ethylguanidine (15.18 g, 40 mmol), and triphenyphosphine (1.54 g, 44 mmol) in THF (400 mL) was cooled to -15° C., and a solution of diethyl azodicarboxylate (7.66 g, 44 mmol) in 50 mL THF was added dropwise with stirring. The mixture was allowed to warm to room temperature, and then refluxed for 4 hr. The mixture was concentrated, and the residue taken up in toluene (300 mL). Triphenylphosphine oxide was removed by filtration, and the flitrate concentrated and chromatographed on silica gel with dichloromethane. N',N"-bis(t-butoxycarbonyl)-N-(2-(4-(3,3,3-triphenylpropoxy)phenyl)ethylguanidine was obtained as a colorless gum (8.0 g, 31%). This material was dissolved in isopropanol (50 mL) containing anisole (8 g) and anhydrous hydrogen chloride (10 g), and the solution heated until gas evolution was observed, at ca. 50° C. The solution was maintained at this temperature for 15 minutes, then concentrated in vacuo. The residue was stirred vigorously for two days with a mixture of ethyl acetate (200 mL) and 1.0N aqueous sodium bicarbonate, and the resulting white solid collected by filtration, and washed with water, acetone, ethyl acetate, and THF, to provide the bicarbonate salt, containing about 0.75 equivalents of water, as a white powder, mp 172°-176° C. (dec). This material was suspended in 250 mL water, and stirred vigorously while heating to 90° C. Gas evolution was observed, and the solid became gummy for a time, then once again became powdery. When gas evolution had ceased, the mixture was cooled, and the solid collected by filtration and dried in vacuo overnight. The title compound was obtained as the carbonate salt, a white powder, mp 150°-180° C. (dec) with slow heating, 180°-183° C. (dec) with rapid heating. Anal. calcd. for C30H31N3O.0.5CH2O3 : C, 76.22; H, 6.71; N, 8.74. Found: C, 75.79; H, 6.68; N, 8.87.

reactant | 3,3,3-triphenylpropanol | 40 mmol, 11.54 g | C1(=CC=CC=C1)C(CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20O
reactant | N,N'-Bis(t-butoxycarbonyl)-N"-2-(4-hydroxyphenyl)ethylguanidine | 40 mmol, 15.18 g | C(C)(C)(C)OC(=O)NC(=NCCC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C | C19H29N3O5
reactant | triphenyphosphine | 44 mmol, 1.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 44 mmol, 7.66 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-(3,3,3-triphenylpropoxy)phenyl)ethylguanidine | C1(=CC=CC=C1)C(CCOC1=CC=C(C=C1)CCNC(=N)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H31N3O
